US08022222B2
Step B: Preparation of N-(3-fluoro-4-(phenylthio)pyridin-2-yl)-4-methylthiazol-2-amine:
Degassed toluene (10 mL) was added to a mixture of 2-chloro-3-fluoro-4-(phenylthio)pyridine (0.500 g, 2.09 mmol), 4-methylthiazol-2-amine (0.238 g, 2.09 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.0955 g, 0.104 mmol) and potassium phosphate (0.487 g, 2.29 mmol), and then degassed water (3 mL) was added. The reaction was stirred overnight at 90° C., then partitioned between ethyl acetate and water, washed with brine, dried, and concentrated. The crude material was purified by MPLC (Biotage), eluting with 3:1 hexane:ethyl acetate to afford the desired product (0.364 g, 55.0% yield) as white crystals. 1H NMR (d6-DMSO) δ 2.24 (s, 3H), 6.21 (t, 1H), 6.56 (s, 1H), 7.52-7.61 (m, 5H), 7.93 (d, 1H), 11.35 (bs, 1H).

reactant | 2-chloro-3-fluoro-4-(phenylthio)pyridine | 2.09 mmol, 0.500 g | ClC1=NC=CC(=C1F)SC1=CC=CC=C1 | C11H7ClFNS
reactant | 4-methylthiazol-2-amine | 2.09 mmol, 0.238 g | CC=1N=C(SC1)N | C4H6N2S
reactant | potassium phosphate | 2.29 mmol, 0.487 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 3 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.104 mmol, 0.0955 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-fluoro-4-(phenylthio)pyridin-2-yl)-4-methylthiazol-2-amine | 0.364 g, 55.0% yield | FC=1C(=NC=CC1SC1=CC=CC=C1)NC=1SC=C(N1)C | C15H12FN3S2
